US04758557
34.5 q of 5-benzyloxy-4-pyrone-2-carboxylic acid was suspended in 500 ml of concentrated hydrochloric acid and 250 ml of water and reacted for 1 hour at 80° C. The reaction solution was cooled with ice, and the formed crystal was taken out by filtration, washed with water and then dried, to obtain 16.6 g of 5-hydroxy-4-pyrone-2-carboxylic acid.

reactant | 5-benzyloxy-4-pyrone-2-carboxylic acid | C1=CC=C(C=C1)COC2=COC(=CC2=O)C(=O)O | C13H10O5
reactant | water | 250 ml | O | H2O
solvent | hydrochloric acid | 500 ml | Cl | ClH
product | 5-hydroxy-4-pyrone-2-carboxylic acid | 16.6 g | C1=C(OC=C(C1=O)O)C(=O)O | C6H4O5
